US06476038B1
E. Cyclopentyl-[2-(3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester
To a 0° C. stirred solution of cyclopentyl-[2-(2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester (89 mg, 0.24 mmol) in chloroform (5 mL) was added N-iodosuccinimide (54 mg, 0.24 mmol). After stirring 30 minutes the reaction was extracted from saturated aqueous sodium thiosulfate with chloroform. The combined extracts were dried (Na2SO4), concentrated under reduced pressure to give the product as a slightly yellowed glass (102 mg, 85%): +APcI MS (M+1)+ 500; 1H NMR (CDCl3) δ: 5.82 (s, 1H), 4.25-4.10 (br s, 1H), 3.46 (s, 4H), 2.51 (s, 3H), 2.41 (s, 3H), 1.50 (s, 9H).

reactant | cyclopentyl-[2-(2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester | 0.24 mmol, 89 mg | C(C)(C)(C)OC(N(CCNC1=CC(=NC=2N1N=C(C2)C)C)C2CCCC2)=O | C20H31N5O2
reactant | N-iodosuccinimide | 0.24 mmol, 54 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | Cyclopentyl-[2-(3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester | 102 mg, 85% | C(C)(C)(C)OC(N(CCNC1=CC(=NC=2N1N=C(C2I)C)C)C2CCCC2)=O | C20H30IN5O2
